US07718692B2
A. 5-Methyl-1H-pyrazole-3-carboxylic acid (4-benzyloxy-phenyl)-amide
This compound was prepared from 4-benzyloxyaniline hydrochloride (4.0 g, 17.0 mmol) and 5-methylpyrazole-2-carboxylic acid (2.25 g, 17.8 mmol), using the same method used to prepare pyridine-2-carboxylic acid (4-benzyloxyphenyl)amide, to give the product as a solid. The product was used without further purification in the subsequent reaction. MS m/z 308 (MH+). 1H NMR(CDCl3+MeOD-d4) δ 2.34 (s, 3H), 5.06 (s, 2H), 6.62 (s, 1H), 6.96 (d, 2H), 7.31 (m, 7H) and 7.58 (d, 1H).

reactant | 4-benzyloxyaniline hydrochloride | 17.0 mmol, 4.0 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | 5-methylpyrazole-2-carboxylic acid | 17.8 mmol, 2.25 g | CC=1C=CN(N1)C(=O)O | C5H6N2O2
reactant | pyridine-2-carboxylic acid (4-benzyloxyphenyl)amide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C19H16N2O2
product | 5-Methyl-1H-pyrazole-3-carboxylic acid (4-benzyloxy-phenyl)-amide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C1=NNC(=C1)C | C18H17N3O2
